US04252724
Following the above procedure, 3-(4-methylphenyl)-4-isopropyloxazolidine-2,5-dione is reacted with 3-benzylpyrrolylmethyl alcohol to give 3-benzylpyrrolylmethyl 2-(4-methylphenylamino)-3-methylbutanoate.

reactant | 3-(4-methylphenyl)-4-isopropyloxazolidine-2,5-dione | CC1=CC=C(C=C1)N1C(OC(C1C(C)C)=O)=O | C13H15NO3
reactant | 3-benzylpyrrolylmethyl alcohol | C(C1=CC=CC=C1)C1=C(NC=C1)CO | C12H13NO
product | 3-benzylpyrrolylmethyl 2-(4-methylphenylamino)-3-methylbutanoate | CC1=CC=C(C=C1)NC(C(=O)OCC=1NC=CC1CC1=CC=CC=C1)C(C)C | C24H28N2O2
